US05399578
5.0 g of (S)-2-amino-6-benzyloxycarbonylamino-hexanoic acid benzyl ester are dissolved in 250 ml of N,N-dimethylformamide. The solution is treated with 4.33 ml of N,N-diisopropyl-N-ethyl-amine, and the mixture is warmed to 80°, stirred for 30 minutes, treated with 4.44 g of 4-bromomethyl-2'-(1-triphenylmethyl-1H-tetrazol-5-yl)-biphenyl, stirred for 16 hours at 80° and then evaporated. The residue is worked up using water and ethyl acetate. The organic phase is dried and purified by means of flash-chromatography (200 g of silica gel; system N4). The (S)-N-(1-benzyloxycarbonyl-5-benzyloxycarbonyl-amino-pent-1-yl)-N-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine is obtained in the form of a brown oil [Rf : 0.18 (system N3)].

reactant | (S)-2-amino-6-benzyloxycarbonylamino-hexanoic acid benzyl ester | 5.0 g | C(C1=CC=CC=C1)OC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)N)=O | C21H26N2O4
reactant | N,N-diisopropyl-N-ethyl-amine | 4.33 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromomethyl-2'-(1-triphenylmethyl-1H-tetrazol-5-yl)-biphenyl | 4.44 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | (S)-N-(1-benzyloxycarbonyl-5-benzyloxycarbonyl-amino-pent-1-yl)-N-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(C1=CC=CC=C1)OC(=O)[C@H](CCCC(C(=O)OCC1=CC=CC=C1)N)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H50N6O4
